US05569646
A solution of 6-hydroxy-2-naphthoic acid (1.04 g) in a mixture of 10% sodium hydroxide aqueous solution (4.44 ml) and dimethyl sulfoxide (18 ml) was stirred for half an hour at 80° C. Then heptyl bromide (0.872 ml) was added thereto and stirred for 5 hours at 60° C. The reaction mixture was added to water (50 ml) and the mixture was adjusted to pH 3 with conc. hydrochloric acid. The resultant precipitate was collected by filtration and dried to give 6-heptyloxy-2-naphthoic acid (1.39 g).

reactant | 6-hydroxy-2-naphthoic acid | 1.04 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | heptyl bromide | 0.872 ml | C(CCCCCC)Br | C7H15Br
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 4.44 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 18 ml | CS(=O)C | C2H6OS
product | 6-heptyloxy-2-naphthoic acid | 1.39 g | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C18H22O3
